US07939666B2
Stage 5: (S)-3-Phenyl-2-(3-{2-[6-(tetrahydro-pyran-2-yloxycarbamoyl)-hexyl-carbamoyl]-1H-indol-5-yl}-propionylamino)-propionic acid cyclopentyl ester
3-{2-[6-(Tetrahydro-pyran-2-yloxycarbamoyl)-hexylcarbamoyl]-1H-indol-5-yl}-propionic acid (0.357 g, 0.78 mmol) was dissolved in DCM/DMF (20 ml/20 ml). EDCl.HCl (0.163 mg, 0.86 mmol), triethylamine (0.24 ml, 1.7 mmol), HOBt (0.116 mg, 0.88 mmol) and L-phenylalanine cyclopentyl ester.TsOH salt (0.346 mg, 0.88 mmol) were added and the reaction mixture stirred for 16 h at room temperature under nitrogen. The solvent volume was reduced (˜10 ml), DCM was added and the organic layer washed with water (×3). The organic layer was dried (Na2SO4) and the solvent removed to give the required product (500 mg, 95% yield) which was used without further purification. LCMS purity 77%, m/z 675 [M++H]+

reactant | 3-{2-[6-(Tetrahydro-pyran-2-yloxycarbamoyl)-hexylcarbamoyl]-1H-indol-5-yl}-propionic acid | 0.78 mmol, 0.357 g | O1C(CCCC1)ONC(=O)CCCCCCNC(=O)C=1NC2=CC=C(C=C2C1)CCC(=O)O | C24H33N3O6
reactant | EDCl | CCN=C=NCCCN(C)C.Cl
reactant | HCl | 0.86 mmol, 0.163 mg | Cl | ClH
reactant | triethylamine | 1.7 mmol, 0.24 ml | C(C)N(CC)CC | C6H15N
reactant | HOBt | 0.88 mmol, 0.116 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | L-phenylalanine cyclopentyl ester | C1(CCCC1)OC([C@@H](N)CC1=CC=CC=C1)=O | C14H19NO2
reactant | TsOH | 0.88 mmol, 0.346 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | DCM DMF | 20 ml | C(Cl)Cl.CN(C)C=O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (S)-3-Phenyl-2-(3-{2-[6-(tetrahydro-pyran-2-yloxycarbamoyl)-hexyl-carbamoyl]-1H-indol-5-yl}-propionylamino)-propionic acid cyclopentyl ester | 500 mg, 95% yield | C1(CCCC1)OC([C@H](CC1=CC=CC=C1)NC(CCC=1C=C2C=C(NC2=CC1)C(NCCCCCCC(NOC1OCCCC1)=O)=O)=O)=O | C38H50N4O7
